US07560467B2
(a) N-1H-indazol-5-yl-4-methyl-3-oxopentanamide
Methyl isobutyrylacetate (3 mL) was mixed with 5-aminoindazole (0.50 g) and heated In a SmithSynthesizer to 180° C. for 300 seconds. The crude mixture was then purified by silica gel chromatography to yield the title compound as a purple solid. 1H NMR (keto- tautomer) (400 MHz, DMSO-D6) δ ppm 12.98 (s, 1H), 10.06 (s, 1H), 8.11 (s, 1H), 8.02 (s, 1H), 7.48 (d, 1H), 7.38 (d, 1H), 3.62 (s, 2H), 2.78 (sept, 1H), 1.06 (d, 6H). MS m/z 246 (M+1)+.

reactant | Methyl isobutyrylacetate | 3 mL | C(C(C)C)(=O)CC(=O)OC | C7H12O3
reactant | 5-aminoindazole | 0.50 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
product | N-1H-indazol-5-yl-4-methyl-3-oxopentanamide | N1N=CC2=CC(=CC=C12)NC(CC(C(C)C)=O)=O | C13H15N3O2
